US04005208
A suspension of 0.25 g. of platinum dioxide in 20 ml. of methanol was shaken under 30 p.s.i. of hydrogen for one hour. To this activated catalyst was added a solution of 7.9 g. (48 mmoles) of 1-ethyl-3-piperidone and 3.1 g. (100 mmoles) of methylamine in 40 ml. of methnol. This mixture was shaken under about 50 p.s.i. of hydrogen for 1.5 hours, then filtered. The solvent was distilled off the filtrate at atmospheric pressure. The residue was then distilled at reduced pressure to give 1-ethyl-3-methylaminopiperidine, b.p. 88°-90.5° C. at 28 mm.

reactant | hydrogen | [H][H] | H2
reactant | 1-ethyl-3-piperidone | 48 mmoles | C(C)N1CC(CCC1)=O | C7H13NO
reactant | methylamine | 100 mmoles | CN | CH5N
catalyst | platinum dioxide | [Pt](=O)=O
solvent | methanol | CO | CH4O
product | 1-ethyl-3-methylaminopiperidine | C(C)N1CC(CCC1)NC | C8H18N2
